US08865739B2
To a yellow solution of 2-amino-5-chlorobenzophenone (2.31 g, 10.0 mmol) in warm (82° C.) dry ethanol (20 ml) was added malononitrile (1.98 g, 30.0 mmol) followed by a solution of sodium ethoxide (9.6 ml of a 3.08 M solution in ethanol, 30.0 mmol). The reaction was heated at reflux for 48 hours, then cooled to room temperature, and the solid filtered off, which was washed with water, ethyl acetate, and dried under reduced pressure to provide 2-amino-6-chloro-4-phenylquinoline-3-carbonitrile as a yellow powder (2.44 g, 87% yield). TLC Rf=0.62 using 1:1 ethyl acetate:hexanes on a silica gel glass backed plate. 1H NMR (DMSO-d6; 400 MHz) δ 7.70-7.58 (m, 5H); 7.56-7.5 (m, 2H); 7.22-7.12 (m, 3H). LC MS (CI) shows M+H 280.

reactant | 2-amino-5-chlorobenzophenone | 10.0 mmol, 2.31 g | NC1=C(C(=O)C2=CC=CC=C2)C=C(C=C1)Cl | C13H10ClNO
reactant | malononitrile | 30.0 mmol, 1.98 g | C(CC#N)#N | C3H2N2
reactant | sodium ethoxide | [O-]CC.[Na+]
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-amino-6-chloro-4-phenylquinoline-3-carbonitrile | 2.44 g, 87% yield | NC1=NC2=CC=C(C=C2C(=C1C#N)C1=CC=CC=C1)Cl | C16H10ClN3
